US07119122B2
Concentrated sulfuric acid (110 ml) was added to 2,5-dimethoxybenzaldehyde (20.17 g, 0.121 mol) with cooling in an ice water bath. The resulting red suspension was stirred at 50° C. for 46 h. The reaction contents were poured over ice and extracted with diethyl ether. The ether layer was extracted with 1N sodium hydroxide (200 ml). The basic extract was acidified by addition of 3N hydrochloric acid and extracted with diethyl ether (2×). The ether extracts were combined and dried over MgSO4. After filtration, the solvent was removed in vacuo to give 5-hydroxy-2-methoxybenzaldehyde (5.85 g, 32%) as an orange solid.

reactant | 2,5-dimethoxybenzaldehyde | 0.121 mol, 20.17 g | COC1=C(C=O)C=C(C=C1)OC | C9H10O3
solvent | sulfuric acid | 110 ml | S(O)(O)(=O)=O | H2O4S
product | 5-hydroxy-2-methoxybenzaldehyde | 5.85 g, 32% | OC=1C=CC(=C(C=O)C1)OC | C8H8O3
